US07649002B2
(3S,4R)-4-(2,4-difluorophenyl)-1-methylpyrrolidine-3-carboxylic acid
To a solution of methyl (3S,4R)-4-(2,4-difluorophenyl)-1-methylpyrrolidine-3-carboxylate, from preparation 37 (800 mg, 3.13 mmol) in tetrahydrofuran (10 mL) was added lithium hydroxide (150 mg, 6.27 mmol) at room temperature. The reaction mixture was stirred for 2 hours and the solvent concentrated in vacuo. The crude residue was dissolved in water (20 mL) and partitioned with ethyl acetate (2×20 mL). The phases were separated and the aqueous phase was acidified using 2M hydrochloric acid solution (3.13 mL). The aqueous phase was evaporated and the residue was azeotroped with toluene (6×20 mL) to afford an oily residue (1000 mg) which was used without further purification in the subsequent step.

reactant | methyl (3S,4R)-4-(2,4-difluorophenyl)-1-methylpyrrolidine-3-carboxylate | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CN(C1)C)C(=O)OC | C13H15F2NO2
reactant | lithium hydroxide | 6.27 mmol, 150 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (3S,4R)-4-(2,4-difluorophenyl)-1-methylpyrrolidine-3-carboxylic acid | 1000 mg | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CN(C1)C)C(=O)O | C12H13F2NO2
